US07829586B2
2) 2-(4-Bromo-3,5-difluorophenyl)-2-ethyl-1,3-dioxolane
Under a nitrogen atmosphere at −78° C., n-butyllithium (1.56 M hexane solution, 4.84 ml) was added to a tetrahydrofuran (20 ml) solution of 2-(3,5-difluorophenyl)-2-ethyl-1,3-dioxolane (1.01 g). The reaction liquid was stirred at −78° C. for 15 minutes, then a tetrahydrofuran (10 ml) solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (3.07 g) was added. After stirred at room temperature for 45 minutes, water was added to it, and extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate, then the solvent was evaporated off, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/1) to obtain the entitled compound (1.20 g) as a pale yellow oil.

reactant | n-butyllithium | 1.56 M, 4.84 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 2-(3,5-difluorophenyl)-2-ethyl-1,3-dioxolane | 1.01 g | FC=1C=C(C=C(C1)F)C1(OCCO1)CC | C11H12F2O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 3.07 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
solvent | water | O | H2O
product | 2-(4-Bromo-3,5-difluorophenyl)-2-ethyl-1,3-dioxolane | 1.20 g | BrC1=C(C=C(C=C1F)C1(OCCO1)CC)F | C11H11BrF2O2
